US04866091
A mixture of 2'-(2,4-difluorophenoxy)-4'-mercaptomethanesulfonanilide (1.5 g), p-chloronitrobenzene (0.75 g) and potassium carbonate (0.66 g) in xylene (30 ml) was stirred and refluxed for 5 hours. The reaction mixture was acidified, washed with water, dried, and concentrated to dryness. The residual oil was crystallized from ethanol to give crystals of 2'-(2,4-difluorophenoxy)-4'-(4-nitrophenylthio)methanesulfonanilide (1.5 g).

reactant | 2'-(2,4-difluorophenoxy)-4'-mercaptomethanesulfonanilide | 1.5 g | FC1=C(OC2=C(NS(=O)(=O)C)C=CC(=C2)S)C=CC(=C1)F | C13H11F2NO3S2
reactant | p-chloronitrobenzene | 0.75 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | potassium carbonate | 0.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2'-(2,4-difluorophenoxy)-4'-(4-nitrophenylthio)methanesulfonanilide | 1.5 g | FC1=C(OC2=C(NS(=O)(=O)C)C=CC(=C2)SC2=CC=C(C=C2)[N+](=O)[O-])C=CC(=C1)F | C19H14F2N2O5S2
